** sch_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_GR05_SKY130A/JNW_GR05.sch
**.subckt JNW_GR05 VDD_1V8 VSS Vout
*.ipin VDD_1V8
*.ipin VSS
*.opin Vout
x2 VDD_1V8 Vout VSS T_to_I_Manuel
R1 Vout VSS 1k m=1
V1 VDD_1V8 VSS 1.8
**** begin user architecture code



* ngspice commands
.include corner.spi


**** end user architecture code
**.ends

* expanding   symbol:  JNW_GR05_SKY130A/T_to_I_Manuel.sym # of pins=3
** sym_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_GR05_SKY130A/T_to_I_Manuel.sym
** sch_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_GR05_SKY130A/T_to_I_Manuel.sch
.subckt T_to_I_Manuel VDD I_OF_T_OUT VSS
*.ipin VDD
*.ipin VSS
*.opin I_OF_T_OUT
x1 V_bjt_n V_n VSS JNWTR_RPPO2
x3 V_n V_current_drive VDD VDD JNWATR_PCH_4C5F0
x4 V_current_drive V_current_drive VDD VDD JNWATR_PCH_4C5F0
x5 V_current_drive OT_out VSS VSS JNWATR_NCH_4C5F0
x6 V_p V_current_drive VDD VDD JNWATR_PCH_4C5F0
x7<3> I_OF_T_OUT V_current_drive VDD VDD JNWATR_PCH_4C5F0
x7<2> I_OF_T_OUT V_current_drive VDD VDD JNWATR_PCH_4C5F0
x7<1> I_OF_T_OUT V_current_drive VDD VDD JNWATR_PCH_4C5F0
x7<0> I_OF_T_OUT V_current_drive VDD VDD JNWATR_PCH_4C5F0
XQ3 VSS VSS V_p sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1 VSS VSS V_bjt_n sky130_fd_pr__pnp_05v5_W3p40L3p40 m=10 mult=10
x9 OT_out VSS JNWTR_CAPX1
x7 VDD V_p OT_out V_n VSS JNWBIAS_OTA
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO2.sym # of pins=3
** sym_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO2.sym
** sch_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO2.sch
.subckt JNWTR_RPPO2 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES2
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sym # of pins=4
** sym_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sym
** sch_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_ATR_SKY130A/JNWATR_PCH_4C5F0.sch
.subckt JNWATR_PCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8 L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sym # of pins=4
** sym_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sym
** sch_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_ATR_SKY130A/JNWATR_NCH_4C5F0.sch
.subckt JNWATR_NCH_4C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__nfet_01v8 L=0.94 W=3.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_CAPX1.sym # of pins=2
** sym_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX1.sym
** sch_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX1.sch
.subckt JNWTR_CAPX1 A B
*.iopin A
*.iopin B
XC1 B A sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
.ends


* expanding   symbol:  /home/emilien/pro/aicex/ip/jnw_bias_sky130a/design/JNW_BIAS_SKY130A/JNWBIAS_OTA.sym # of pins=5
** sym_path: /home/emilien/pro/aicex/ip/jnw_bias_sky130a/design/JNW_BIAS_SKY130A/JNWBIAS_OTA.sym
** sch_path: /home/emilien/pro/aicex/ip/jnw_bias_sky130a/design/JNW_BIAS_SKY130A/JNWBIAS_OTA.sch
.subckt JNWBIAS_OTA VDD_1V8 VIP VO VIN VSS
*.opin VO
*.ipin VIP
*.ipin VIN
*.ipin VDD_1V8
*.ipin VSS
**** begin user architecture code

XOTA VIP VIN VO_INT VDD_1V8 VSS cpdk_ideal_ota GAIN=1000 UGBW=1e7

**** end user architecture code
R1 VO VO_INT 1k m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES2.sym # of pins=3
** sym_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_TR_SKY130A/JNWTR_RES2.sym
** sch_path: /home/emilien/pro/aicex/ip/jnw_gr05_sky130a/design/JNW_TR_SKY130A/JNWTR_RES2.sch
.subckt JNWTR_RES2 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 P INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends

.end
